US05981533
5-Amino-4-cyano-3-(3-methoxy-benzylamino)-pyrazole
A mixture of 25.57 g (98.6 mmol) of 2-cyano-3-(3-methoxy-benzylamino)-3-methylmercapto-acrylonitrile, 5.16 ml (104 mmol) of hydrazine hydrate and 140 ml of methanol is stirred at RT for 1 hour, heated under reflux for 2.5 hours and then concentrated by evaporation in vacuo. Recrystallization of the residue from ethanol/hexane yields the title compound; m.p. 151-153° C.

reactant | 2-cyano-3-(3-methoxy-benzylamino)-3-methylmercapto-acrylonitrile | 98.6 mmol, 25.57 g | C(#N)C(C#N)=C(SC)NCC1=CC(=CC=C1)OC | C13H13N3OS
reactant | hydrazine hydrate | 104 mmol, 5.16 ml | O.NN
solvent | methanol | 140 ml | CO | CH4O
product | 5-Amino-4-cyano-3-(3-methoxy-benzylamino)-pyrazole | NC1=C(C(=NN1)NCC1=CC(=CC=C1)OC)C#N | C12H13N5O
